US04477388
To a stirred mixture of 33.96 g of 4-methyl-4-trimethylsilyloxy nonyne and 150 mg of azobisisobutyronitrile at ambient temperature under argon was added 41 ml of tri-n-butyltin hydride via syringe. The mixture was slowly heated in an oil bath, with a rapid exothermic reaction to 120° C. taking place as the temperature reached 60° C. Heating to 130°-135° C. continued for one hour. The product was then allowed to cool and was then distilled to provide 74.5 g of (E)-4-methyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-nonene (b.p. 162°-164° C. at 0.15-0.30 mm).

reactant | 4-methyl-4-trimethylsilyloxy nonyne | 33.96 g | CC(CC#C)(CCCCC)O[Si](C)(C)C | C13H26OSi
reactant | azobisisobutyronitrile | 150 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 41 ml | C(CCC)[SnH](CCCC)CCCC
product | (E)-4-methyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-nonene | 74.5 g | CC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCCC)O[Si](C)(C)C | InChI=1S/C13H27OSi.3C4H9.Sn/c1-7-9-10-12-13(3,11-8-2)14-15(4,5)6;3*1-3-4-2;/h2,8H,7,9-12H2,1,3-6H3;3*1,3-4H2,2H3;
